US09339503B2
2-[4-(3-Methoxyphenyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A7”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol), 1-(3-methoxyphenyl)piperazine hydrochloride (116.5 mg; 0.51 mmol) and triethylamine (141.3 μl; 1.02 mmol) are reacted in isoamyl alcohol (1 ml) in accordance with the procedure for Example 1 (reaction time 4 h) and worked up; yield: 79 mg (45%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | 1-(3-methoxyphenyl)piperazine hydrochloride | 0.51 mmol, 116.5 mg | Cl.COC=1C=C(C=CC1)N1CCNCC1
reactant | triethylamine | 1.02 mmol, 141.3 μl | C(C)N(CC)CC | C6H15N
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
product | 2-[4-(3-Methoxyphenyl)piperazin-1-yl]-5,6,7,8-tetrahydro-3H-quinazolin-4-one | COC=1C=C(C=CC1)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C19H24N4O2
